US05925624
2-Chloro-N-(2,2-diphenylethyl)-adenosine
2-Chloro-N-(2,2-diphenylethyl)-adenosine 2',3',5'-triacetate (2.0 g,3.29 mmol) was dissolved in methanol (120 ml) and the solution was stirred at room temperature with 2M aqueous sodium carbonate solution (10 ml). After 2h the mixture was diluted with water (350 ml) and extracted with ethyl acetate (2×10 ml). The extract was washed with water (100 ml) and dried (MgSO4) then evaporated to leave a froth (1.42 g). A sample (0.42 g) was purified by column chromatography on flash silica eluting with ethyl acetate:cyclohexane (3:1). Evaporation of appropriate fractions gave an oil which was treated with ether (20 ml) to give a solid, which was collected by filtration, washed with ether and dried in vacuo to give the title compound (0.177 g) as a solid [α]D -39° (CHCl3 c=1%).

reactant | 2-Chloro-N-(2,2-diphenylethyl)-adenosine 2',3',5'-triacetate | 3.29 mmol, 2.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NCC(C3=CC=CC=C3)C3=CC=CC=C3)=NC(=NC12)Cl | C30H30ClN5O7
reactant | sodium carbonate | 2M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ether | 20 ml | CCOCC | C4H10O
solvent | methanol | 120 ml | CO | CH4O
solvent | water | 350 ml | O | H2O
product | 2-Chloro-N-(2,2-diphenylethyl)-adenosine | 0.177 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24ClN5O4
